US07875636B2
To a solution of N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}-2-methylpropane-2-sulfinamide (3.84 g, 11.3 mmol) and methanol (50 ml) was added 2.0N HCl in ether (45.1 ml, 90 mmol). The reaction was stirred for an hour and concentrated to give (2S)-2-amino-2-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethanol dihydrochloride as a white foam (3.49 g, 100%). MS (Electrospray): m/z 237.1 (M+H). To a 100 ml round bottom flask equipped with a magnetic stir bar were added 4-cyclopropylphenylacetic acid (1.79 g, 10.2 mmol), (2S)-2-amino-2-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethanol dihydrochloride (3.14 g, 10.2 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (2.34 g, 12.2 mmol), 1-hydroxy-7-azabenzotriazole (1.66 g, 12.2 mmol) and triethylamine (4.25 ml, 30.5 mmol) into 68 ml of dimethylformamide. The resulting solution was stirred at room temperature for 16 hours. The reaction mixture was washed with brine (3×50 ml) and extracted with ethyl acetate (3×70 ml). The combined organic layers were dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated in vacuum to give an oil. Purification by flash chromatography (SiO2, 50-100% EtOAc/Hexanes, gradient) gave 2-(4-cyclopropylphenyl)-N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide as a light yellow solid (3.00 g, 75%); 1H NMR (400 MHz, CD3OD) δ 8.28 (d, J=2.4 Hz, 1H), 7.42 (dd, J=2.4 Hz and 6.8 Hz, 1H), 7.29 (d, J=7.2 Hz, 1H), 7.16 (d, J=6.4 Hz, 2H), 7.01 (d, J=6.4 Hz, 2H), 5.07-4.99 (m, 1H), 4.63 (q, J=6.4 Hz, 2H), 3.82-3.79 (m, 2H), 3.54 (s, 2H), 1.89-1.84 (m, 1H), 0.92 (m, 2H), 0.64 (m, 2H); MS (Electrospray): m/z 395.2 (M+H).

reactant | 4-cyclopropylphenylacetic acid | 10.2 mmol, 1.79 g | C1(CC1)C1=CC=C(C=C1)CC(=O)O | C11H12O2
reactant | (2S)-2-amino-2-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethanol dihydrochloride | 10.2 mmol, 3.14 g | Cl.Cl.N[C@H](CO)C1=NC=C(C=C1)OCC(F)(F)F
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 12.2 mmol, 2.34 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 12.2 mmol, 1.66 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 30.5 mmol, 4.25 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 68 ml | CN(C=O)C | C3H7NO
product | 2-(4-cyclopropylphenyl)-N-{(1S)-2-hydroxy-1-[5-(2,2,2-trifluoroethoxy)pyridin-2-yl]ethyl}acetamide | 3.00 g, 75% | C1(CC1)C1=CC=C(C=C1)CC(=O)N[C@H](CO)C1=NC=C(C=C1)OCC(F)(F)F | C20H21F3N2O3
